US07390809B2
Step A: N-Pyrazin-2-ylcyclopropanecarboxamide
To a solution of 10 g (105 mmol) of 2-aminopyrazine in 100 mL of pyridine was added dropwise a solution of 10.99 g (9.56 mL, 105 mmol) of cyclopropanecarbonyl chloride in 100 mL of dichloromethane. The resultant yellow solution was stirred at ambient temperature for 2 h. The reaction mixture was concentrated in vacuo. The residue was dissolved in ethyl acetate and a small amount of water and washed sequentially with 1 M aqueous cuprous sulfate solution and water. The water layer was extracted with three portions of ethyl acetate. The combined organic phases were washed with brine, dried over magnesium sulfate, and concentrated. Purification by flash chromatography (silica gel, eluting sequentially with 50%, 80% and 100% ethyl acetate/hexane) gave the title compound.

reactant | 2-aminopyrazine | 105 mmol, 10 g | NC1=NC=CN=C1 | C4H5N3
reactant | cyclopropanecarbonyl chloride | 105 mmol, 9.56 mL, 10.99 g | C1(CC1)C(=O)Cl | C4H5ClO
solvent | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | N-Pyrazin-2-ylcyclopropanecarboxamide | N1=C(C=NC=C1)NC(=O)C1CC1 | C8H9N3O
